US05578627
To a solution of 0.62 g of 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole in 15 ml of ethanol is added 1.5 ml of a 2-propanol solution (6.5M) of hydrogen chloride at room temperature, and thereafter, the crystals precipitated are collected by filtration and then dried to obtain 0.45 g of colorless, crystalline 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 240.5°-243.4° C.

reactant | 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | 0.62 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | C15H13ClN2O3
reactant | 2-propanol | 6.5M, 1.5 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | InChI=1S/C15H13ClN2O3.ClH/c16-10-4-5-14-12(7-10)15(18-21-14)20-8-13(17)9-2-1-3-11(19)6-9;/h1-7,13,19H,8,17H2;1H
